US08252806B2
[2-(3,5-Diisopropyl-pyrazol-1-yl)-quinazolin-4-yl]-(4-methyl-cyclohexyl)-amine, Hydrochloride (Compound A19)
Was prepared according to Method A from 2,4-dichloroquinazoline, 4-methylcyclohexylamine and 3,5-diisopropylpyrazole. Mp. 134.6° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-methylcyclohexylamine | CC1CCC(CC1)N | C7H15N
reactant | 3,5-diisopropylpyrazole | C(C)(C)C1=NNC(=C1)C(C)C | C9H16N2
product | [2-(3,5-Diisopropyl-pyrazol-1-yl)-quinazolin-4-yl]-(4-methyl-cyclohexyl)-amine, Hydrochloride | Cl.C(C)(C)C1=NN(C(=C1)C(C)C)C1=NC2=CC=CC=C2C(=N1)NC1CCC(CC1)C | InChI=1S/C24H33N5.ClH/c1-15(2)21-14-22(16(3)4)29(28-21)24-26-20-9-7-6-8-19(20)23(27-24)25-18-12-10-17(5)11-13-18;/h6-9,14-18H,10-13H2,1-5H3,(H,25,26,27);1H
